### PR TITLE
Erdős Problem 1003

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 1003](https://www.erdosproblems.com/1003).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1003.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+/--
+Erdős, Pomerance, and Sárközy [EPS87](https://mathscinet.ams.org/mathscinet/relay-station?mr=897061)
+proved that the number of $n \leq x$ with $\phi(n) = \phi(n+1)$ is at most
+$$\frac{x}{\exp(c(\log x)^{1/3})}$$
+for some constant $c > 0$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1003.variants.eps87 :
+    ∀ x, ∃ c > 0, {n | n.totient = (n + 1).totient}.ncard ≤ x / Real.exp (c * (Real.log x)^(1/3)) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
theorem erdos_1003.variants.eps87 (x : ℝ) : ∃ c > 0,
    {(n : ℕ) | (n : ℝ) ≤ x ∧ (n.totient = (n + 1).totient)}.ncard
        ≤ x / (c * (x.log) ^ (1 / 3)).exp := by
  sorry
```

without the $n ≤ x$, the set is infinite (if the conjecture above is true), hence ncard will be zero

Comment (rao107) [reply FormalConjectures/ErdosProblems/1003.lean]: Oh! I could've sworn I added that... Thanks for the catch!

File: FormalConjectures/ErdosProblems/1003.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+-/
+
+namespace Erdos1003
+
+/--
+Are there infinitely many solutions to $\phi(n) = \phi(n+1)$, where \phi is the Euler totient
+function?
+-/
+@[category research open, AMS 11]
+theorem erdos_1003 : (Set.Infinite {n | n.totient = (n + 1).totient}) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
theorem erdos_1003 : Set.Infinite {n | φ n = φ (n + 1)} ↔ answer(sorry) := by
```
I think this shouldn't need parenthesis (and also added the notation you can use if you accept the suggestion above.

File: FormalConjectures/ErdosProblems/1003.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1003
+
+*Reference:* [erdosproblems.com/1003](https://www.erdosproblems.com/1003)
+-/
+
+namespace Erdos1003
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean:26]:
```suggestion
namespace Erdos1003

open scoped Nat
```
If you do this, you can use the notation: `φ` for the totient function!

File: FormalConjectures/ErdosProblems/1003.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+  sorry
+
+/--
+Erdős [Er85e](https://mathscinet.ams.org/mathscinet/relay-station?mr=827779) says that, presumably,
+for every $k \geq 1$ the equation
+$$\phi(n) = \phi(n+1) = \cdots = \phi (n+k)$$
+has infinitely many solutions.
+-/
+@[category research open, AMS 11]
+theorem erdos_1003.variants.ext :
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
theorem erdos_1003.variants.Icc :
```
I would call it like this instead

**Review by callesonne — COMMENTED** [review]
Thanks a lot! Some minor comments :)

File: FormalConjectures/ErdosProblems/1003.lean [hunk 5]
```diff
@@ -0,0 +1,59 @@
...
+
+/--
+Erdős [Er85e](https://mathscinet.ams.org/mathscinet/relay-station?mr=827779) says that, presumably,
+for every $k \geq 1$ the equation
+$$\phi(n) = \phi(n+1) = \cdots = \phi (n+k)$$
+has infinitely many solutions.
+-/
+@[category research open, AMS 11]
+theorem erdos_1003.variants.Icc :
+    (∀ k ≥ 1, Set.Infinite {n | ∀ i ∈ Set.Icc 1 k, n.totient = (n + i).totient}) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
    (∀ k ≥ 1, Set.Infinite {n | ∀ i ∈ Set.Icc 1 k,φ n = φ (n + i)}) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/1003.lean [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+/--
+Erdős, Pomerance, and Sárközy [EPS87](https://mathscinet.ams.org/mathscinet/relay-station?mr=897061)
+proved that the number of $n \leq x$ with $\phi(n) = \phi(n+1)$ is at most
+$$\frac{x}{\exp(c(\log x)^{1/3})}$$
+for some constant $c > 0$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1003.variants.eps87 (x : ℝ) : ∃ c > 0,
+    {(n : ℕ) | (n : ℝ) ≤ x ∧ (n.totient = (n + 1).totient)}.ncard
+        ≤ x / (c * (x.log) ^ (1 / 3)).exp := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
    {(n : ℕ) | n ≤ x ∧ φ n = φ (n + 1)}.ncard ≤
      x / (c * (x.log) ^ (1 / 3)).exp := by
```
Added totient function notation here, and move the `≤` a line up for increased readability. Also is the type ascription on n necessary here? I suggest its removed (assuming everything compiles)

Comment (rao107) [reply FormalConjectures/ErdosProblems/1003.lean]: Type ascription wasn't necessary but it seems the `∧` was trying to evaluate `x` as a `Prop`. I added parentheses to clarify.

File: FormalConjectures/ErdosProblems/1003.lean [hunk 7]
```diff
@@ -0,0 +1,59 @@
...
+/-!
+# Erdős Problem 1003
+
+*Reference:* [erdosproblems.com/1003](https://www.erdosproblems.com/1003)
+-/
+
+namespace Erdos1003
+
+open scoped Nat
+/--
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean:29]:
```suggestion
open scoped Nat

/--
```
I think this missed blank line was my bad

File: FormalConjectures/ErdosProblems/1003.lean [hunk 8]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_1003 : Set.Infinite {n | φ n = φ (n + 1)} ↔ answer(sorry) := by
+  sorry
+
+/--
+Erdős [Er85e](https://mathscinet.ams.org/mathscinet/relay-station?mr=827779) says that, presumably,
+for every $k \geq 1$ the equation
+$$\phi(n) = \phi(n+1) = \cdots = \phi (n+k)$$
+has infinitely many solutions.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
Erdős [Er85e] says that, presumably, for every $k \geq 1$ the equation
$$\phi(n) = \phi(n+1) = \cdots = \phi (n+k)$$ has infinitely many solutions.

[Er85e] Erdős, P., _Some problems and results in number theory_. Number theory and combinatorics. Japan 1984 (Tokyo, Okayama and Kyoto, 1984) (1985), 65-87.
```
Usually we format the references like this.

File: FormalConjectures/ErdosProblems/1003.lean [hunk 9]
```diff
@@ -0,0 +1,59 @@
...
+@[category research open, AMS 11]
+theorem erdos_1003.variants.Icc :
+    (∀ k ≥ 1, Set.Infinite {n | ∀ i ∈ Set.Icc 1 k, φ n = φ (n + i)}) ↔ answer(sorry) := by
+  sorry
+
+/--
+Erdős, Pomerance, and Sárközy [EPS87](https://mathscinet.ams.org/mathscinet/relay-station?mr=897061)
+proved that the number of $n \leq x$ with $\phi(n) = \phi(n+1)$ is at most
+$$\frac{x}{\exp(c(\log x)^{1/3})}$$
+for some constant $c > 0$.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
Erdős, Pomerance, and Sárközy proved that the number of $n \leq x$ with $\phi(n) = \phi(n+1)$
is at most $$\frac{x}{\exp(c(\log x)^{1/3})}$$ for some constant $c > 0$.

[EPS87] Erd\H os, Paul and Pomerance, Carl and S\'ark\"ozy, Andr\'as, _On locally repeated values of certain arithmetic functions_. {III}. Proc. Amer. Math. Soc. (1987), 1--7.
```

File: FormalConjectures/ErdosProblems/1003.lean [hunk 10]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_1003.variants.eps87 (x : ℝ) : ∃ c > 0,
+    {(n : ℕ) | (n ≤ x) ∧ φ n = φ (n + 1)}.ncard ≤
+      x / (c * (x.log) ^ (1 / 3)).exp := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1003.lean]:
```suggestion
      x / Real.exp (c * (x.log) ^ (1 / 3)) := by
```
Since the expression is so complicated, placing the exp before makes it more readable.

**Review by callesonne — APPROVED** [review]
LGTM after these comments, thanks!

**Comment by rao107** [comment]
Added your suggested comments!

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
